US04743291
To a stirred solution of 15.0 g (0.063 mole) of 2,5-dimethoxybenzenesulfonyl chloride in 150 mL of tetrahydrofuran was added dropwise 80 mL of ammonia (28% aqueous solution). After complete addition the mixture was allowed to stir for 1.75 hours at room temperature. Upon standing the mixture separated into two phases. The organic phase was removed from the aqueous phase and was evaporated under reduced pressure to leave a solid residue. This residue was recrystallized from hot water (125 mL) and ethanol (40 mL) to yield 13.1 g of 2,5-dimethoxyphenylsulfonamide (mp 146.5-148.5).

reactant | 2,5-dimethoxybenzenesulfonyl chloride | 0.063 mole, 15.0 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | ammonia | 80 mL | N | H3N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2,5-dimethoxyphenylsulfonamide | 13.1 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)N | C8H11NO4S
